US06720320B2
2-(5-ethyloxazol-2-yl)-4-hydroxybenzo(b)furan
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 2-(5-ethyloxazol-2-yl)-4-methoxybenzo(b)furan (2.00 g) and boron tribromide (2.0 ml), the title compound (1.24 g) was obtained as colorless crystals.

reactant | 2-(5-ethyloxazol-2-yl)-4-methoxybenzo(b)furan | 2.00 g | C(C)C1=CN=C(O1)C1=CC2=C(O1)C=CC=C2OC | C14H13NO3
reactant | boron tribromide | 2.0 ml | B(Br)(Br)Br | BBr3
product | 2-(5-ethyloxazol-2-yl)-4-hydroxybenzo(b)furan | 1.24 g | C(C)C1=CN=C(O1)C1=CC2=C(O1)C=CC=C2O | C13H11NO3
